US06242470B1
N-(5-Hydroxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
To a solution of N-(5-methoxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide prepared as described in Example 5 (1.00 g) in dichloromethane (20 ml), was added boron tribromide (4 ml of a 1.0M solution in dichloromethane) at −78° C. under an inert atmosphere. The reaction mixture was stirred for 24 hours and then warmed to ambient temperature and washed with brine. The organic layer was dried over magnesium sulphate (MgSO4) and concentrated under reduced pressure to yield a residue. Trituration with diethyl ether gave a solid (0.335 g). A portion of this material (0.050 g) was further purified by Supercritical Fluid chromatography using a Cyano column, eluting with a gradient of methanol in supercritical carbon dioxide to give the title compound as a white solid (0.030 g).

reactant | N-(5-methoxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | COC=1C=CC(=C(C1)NC(CC12CC3CC(CC(C1)C3)C2)=O)C | C20H27NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(5-Hydroxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 0.335 g | OC=1C=CC(=C(C1)NC(CC12CC3CC(CC(C1)C3)C2)=O)C | C19H25NO2
